US04645771
Using a similar procedure to that described in Example 7, but starting from 3,4-diacetoxybenzaldehyde (18.6 g.) and 1,2,3,6-tetrahydropyridine (13.9 g.) in methanol (150 ml.), there was obtained 1-(3,4-dihydroxybenzyl)-1,2,3,6-tetrahydropyridine as the free base (0.45 g.), m.p. >300° C.; microanalysis,

reactant | 3,4-diacetoxybenzaldehyde | 18.6 g | C(C)(=O)OC=1C=C(C=O)C=CC1OC(C)=O | C11H10O5
reactant | 1,2,3,6-tetrahydropyridine | 13.9 g | N1CCC=CC1 | C5H9N
solvent | methanol | 150 ml | CO | CH4O
product | 1-(3,4-dihydroxybenzyl)-1,2,3,6-tetrahydropyridine | OC=1C=C(CN2CCC=CC2)C=CC1O | C12H15NO2
